US07101886B2
Starting with N-[4-(2-chloro-ethyl)-2-methyl-phenyl]-N-methyl-acetamide (0.226 g, 1.00 mmol) and 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride (0.384 g, 1.50 mmol), and following the procedure outlined in Example 501, N-{4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl}-N-methyl-acetamide was obtained as its hydrochloride salt (0.341 g, 0.41 mmol). Yield=71%;100% purity at 254 nm; LCMS (APCI): 409.2 [M+H]+, 1H NMR (400 MHz, DMSO-d6) δ 8.12 (d, J=7.51 Hz, 1H), 8.08 (d, J=7.51 Hz, 1H), 7.57 (t, J=7.51 Hz, 1H), 7.44 (t, J=7.51 Hz, 1H), 7.26 (s, 1H), 7.24–7.19 (m, 2H), 4.07 (d, J=13.23 Hz, 2H), 3.65 (d, J=13.23 Hz, 2H), 3.53 (apparent t, J=12.21 Hz, 2H), 3.44–3.22 (m, 4H), 3.19–3.07 (m, 2H), 3.00 (s, 3H), 2.14 (s, 3H), 1.60 (s, 3H); Anal. Calcd for C23H29N4O1S1Cl1: C, 60.88; H, 6.49; N, 12.35. Found: C, 60.48; H, 6.59; N, 11.98.

reactant | N-[4-(2-chloro-ethyl)-2-methyl-phenyl]-N-methyl-acetamide | 1.00 mmol, 0.226 g | ClCCC1=CC(=C(C=C1)N(C(C)=O)C)C | C12H16ClNO
reactant | 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride | 1.50 mmol, 0.384 g | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
product | N-{4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl}-N-methyl-acetamide | Yield=71% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)N(C(C)=O)C)C | C23H28N4OS
